US04794181
To a solution of 7,8-dimethoxy-1-hydroxy-2,3,4,5-tetrahydro-3-(p-toluenesulfonyl)-3-benzazepine (15 g, 40 mmole), phenol (3.6 g, 40 mmole) and triphenylphosphine (10.8 g, 41 mmole) in benzene (400 ml), cooled with an ice bath, was slowly dropped a solution of diethyl azodicarboxylate (7.2 g, 42 mmole) in benzene (100 ml). After stirring three hours at ambient temperature, the reaction mixture was filtered to remove sym-dicarbethoxyhydrazine (6.2 g, 94%, m.p. 132°-134° C.), then was concentrated to an oil (35 g) which was purified by column chromatography (silica gel, ether) to give 16 g, (88%) of an oil. A solution of the resultant 7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-3-(p-toluenesulfonyl)-3-benzazepine (15 g, 33 mmole) in toluene (65 ml) was added to a solution of sodium bis (2-methoxyethoxy) aluminum hydride (40 g, 0.2 mole, 70% in toluene). The reaction mixture was stirred at ambient temperature for two days, then at 70° C. for three hours. The reaction mixture was then cooled and poured slowly into 1 liter of dilute NaOH and extracted with ethyl acetate. The organic extracts were washed twice with water, dried (saturated NaCl, anhydrous MgSO4), filtered and converted utilizing the procedure of Example 1 to the oxalate salt (8 g, 62%, m.p. 100° C.). This material was recrystallized from a 20:1 solution of ethyl acetate/methanol to give 7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-3-benzazepine oxalate, d 148°-149° C.

reactant | 7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-3-(p-toluenesulfonyl)-3-benzazepine | 33 mmole, 15 g | COC1=CC2=C(C(CN(CC2)S(=O)(=O)C2=CC=C(C=C2)C)OC2=CC=CC=C2)C=C1OC | C25H27NO5S
reactant | sodium bis (2-methoxyethoxy) aluminum hydride | 0.2 mole, 40 g | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | NaOH | 1 liter | [OH-].[Na+]
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
product | 7,8-dimethoxy-1-phenoxy-2,3,4,5-tetrahydro-3-benzazepine oxalate | C(C(=O)O)(=O)O.COC1=CC2=C(C(CNCC2)OC2=CC=CC=C2)C=C1OC | InChI=1S/C18H21NO3.C2H2O4/c1-20-16-10-13-8-9-19-12-18(15(13)11-17(16)21-2)22-14-6-4-3-5-7-14;3-1(4)2(5)6/h3-7,10-11,18-19H,8-9,12H2,1-2H3;(H,3,4)(H,5,6)
